US05849920
5-Amino-4-cyano-1-(3-chloro-6-methoxy-5-trifluoromethylpyrid-2-yl)pyrazole
5 ml of methanol were added in the course of 10 minutes at 20° C. to a suspension of 0.23 g (0.0092 mol) of 95% sodium hydride in 75 ml of methyl tert-butyl ether and the mixture was stirred for 25 minutes until a clear solution was obtained. 3 g (0.0098 mol) of 5-amino-4-cyano-1-(3-chloro-6-fluoro-5-trifluoromethylpyrid-2-yl)pyrazole (Example IV.1.) in 50 ml of methyl tert-butyl ether were subsequently added with stirring and the mixture was stirred for 2 hours at 25° C. Approximately 50 g of ice and 100 ml of hydrochloric acid were added and the phases were separated. The organic phase was washed using saturated sodium chloride solution, dried and filtered through silica gel. After concentration, stirring with ether/pentane, filtration with suction and drying, 2.4 g (77% of theory) of the title compound of m.p. 135°-139° C. were obtained (active ingredient example No. 5.003).

reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydride | 0.0092 mol, 0.23 g | [H-].[Na+]
reactant | 5-amino-4-cyano-1-(3-chloro-6-fluoro-5-trifluoromethylpyrid-2-yl)pyrazole | 0.0098 mol, 3 g | NC1=C(C=NN1C1=NC(=C(C=C1Cl)C(F)(F)F)F)C#N | C10H4ClF4N5
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | methyl tert-butyl ether | 75 ml | C(C)(C)(C)OC | C5H12O
solvent | methyl tert-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
product | 5-Amino-4-cyano-1-(3-chloro-6-methoxy-5-trifluoromethylpyrid-2-yl)pyrazole | NC1=C(C=NN1C1=NC(=C(C=C1Cl)C(F)(F)F)OC)C#N | C11H7ClF3N5O
